US06048880
3-Ethyl-7,7-dimethyl-4-oxo-4,5,6,7-tetrahydrobenzofuran (step 1)
The subtitle compound was prepared according to the procedure of example 2 using 1-hydroxy-2-butanone instead of acetol and 4,4-dimethyl-1,3-cyclohexanedione instead of 1,3-cyclohexanedione in step1.

reactant | 1-hydroxy-2-butanone | OCC(CC)=O | C4H8O2
reactant | 4,4-dimethyl-1,3-cyclohexanedione | CC1(C(CC(CC1)=O)=O)C | C8H12O2
product | 3-Ethyl-7,7-dimethyl-4-oxo-4,5,6,7-tetrahydrobenzofuran | C(C)C1=COC2=C1C(CCC2(C)C)=O | C12H16O2
